US05550260
1 (RS)-4-hydroxy-3-methyl-2-(2-propenyl)-cyclopent-2-ene-1-one (5.0 g) and imidazole (2.91 g) were dissolved in dry dimethylformamide (20 ml), and tert-butyldimethylchlorosilane (5.45 g) was added thereto at room temperature and the resulting mixture was allowed to react for 14 hours at room temperature. The reaction solution was poured into an ice-cooled aqueous citric acid solution, and extracted three times with diethyl ether. The organic layers were combined, and the combined layer was washed with saturated aqueous sodium bicarbonate solution and brine in sequence, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The resultant residue was subjected to column chromatography (eluent; n-hexane: ethy acetate=4:1) to afford (RS)-4-tert-butyldimethylsilyloxy-3-methyl-2-(2-propenyl)cyclopent-2-ene-1-one (8.48 g, yield 97.0%) as a pale yellow oil.

reactant | (RS)-4-hydroxy-3-methyl-2-(2-propenyl)-cyclopent-2-ene-1-one | 5.0 g | OC1C(=C(C(C1)=O)CC=C)C | C9H12O2
reactant | imidazole | 2.91 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 5.45 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (RS)-4-tert-butyldimethylsilyloxy-3-methyl-2-(2-propenyl)cyclopent-2-ene-1-one | 8.48 g, yield 97.0% | [Si](C)(C)(C(C)(C)C)OC1C(=C(C(C1)=O)CC=C)C | C15H26O2Si
